US05041674
Preparation of 2,6-Difluoro-3,4,5-Trichloroaniline
To a 45 mL Hastelloy "C" pressure reactor was added 4.5 g of 2,6-difluoro-3,4,5-trichloronitrobenzene, 0.91 g of 10 percent palladium on charcoal and 25 mL of iso-propyl alcohol. The reactor was purged with nitrogen, sealed and pressurized to 130 psig with hydrogen. After stirring at ambient temperature for 5 hrs, the reactor was vented. The catalyst was removed by filtration and the solvent was evaporated under reduced pressure to give 3.7 g of solid product having a mp 137°-140° C. The IR, Mass and NMR spectra were consistent with the structure.

reactant | 2,6-difluoro-3,4,5-trichloronitrobenzene | 4.5 g | FC1=C(C(=C(C(=C1Cl)Cl)Cl)F)[N+](=O)[O-] | C6Cl3F2NO2
catalyst | palladium on charcoal | 0.91 g | [Pd] | Pd
solvent | iso-propyl alcohol | 25 mL | C(C)(C)O | C3H8O
product | 2,6-Difluoro-3,4,5-Trichloroaniline | 3.7 g | FC1=C(N)C(=C(C(=C1Cl)Cl)Cl)F | C6H2Cl3F2N
